### PR TITLE
[Merged by Bors] - feat(RingTheory/Polynomial/Hilbert): `Polynomial.exists_unique_hilbertPoly` and `Polynomial.hilbertPoly_mul_one_sub_pow_add`

### PR DESCRIPTION
**Pull request by FMLJohn**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

- [ ] depends on: #19303

In this pull request, the main results we have added are:
1. `Polynomial.exists_unique_hilbertPoly`
2. `Polynomial.hilbertPoly_mul_one_sub_pow_add`

### CODE REVIEW

File: Mathlib/RingTheory/Polynomial/HilbertPoly.lean [hunk 1]
```diff
@@ -127,4 +131,60 @@ theorem coeff_mul_invOneSubPow_eq_hilbertPoly_eval
...
+  refine eq_of_infinite_eval_eq _ _ ?_
+  · intro hfin
+    have hsub : Nat.cast '' Set.Ioi (p * (1 - X)).natDegree ⊆
+        { x | ((p * (1 - X)).hilbertPoly (d + 1)).eval x = (p.hilbertPoly d).eval x } := by
+      intro x hx
+      rcases hx with ⟨n, hn1, hn2⟩
+      rw [← hn2]
+      exact heq ⟨n, hn1⟩
+    exact Set.Infinite.image (Set.injOn_of_injective cast_injective) (Set.Ioi_infinite _)
+      (Set.Finite.subset hfin hsub)
```
Comment (jcommelin) [inline Mathlib/RingTheory/Polynomial/HilbertPoly.lean:182]:
```suggestion
  apply ((Set.Ioi_infinite (p * (1 - X)).natDegree).image cast_injective.injOn).mono
  intro x hx
  rcases hx with ⟨n, hn1, hn2⟩
  rw [← hn2]
  exact heq ⟨n, hn1⟩
```

File: Mathlib/RingTheory/Polynomial/HilbertPoly.lean [hunk 2]
```diff
@@ -127,4 +131,52 @@ theorem coeff_mul_invOneSubPow_eq_hilbertPoly_eval
...
+  use hilbertPoly p d; constructor
+  · use p.natDegree
+    exact fun n hn => coeff_mul_invOneSubPow_eq_hilbertPoly_eval d hn
+  · rintro h ⟨N, hhN⟩
+    refine eq_of_infinite_eval_eq h (hilbertPoly p d) ?_
+    · apply ((Set.Ioi_infinite (N ⊔ p.natDegree)).image cast_injective.injOn).mono
+      intro x hx
+      simp only [Set.mem_image, Set.mem_Ioi, sup_lt_iff, Set.mem_setOf_eq] at hx ⊢
+      rcases hx with ⟨n, ⟨hn1, hn2⟩, hn3⟩
+      rw [← hn3, ← coeff_mul_invOneSubPow_eq_hilbertPoly_eval d hn2, hhN n hn1]
```
Comment (jcommelin) [inline Mathlib/RingTheory/Polynomial/HilbertPoly.lean:152]:
```suggestion
    exact fun n ↦ coeff_mul_invOneSubPow_eq_hilbertPoly_eval d
  · rintro h ⟨N, hhN⟩
    apply eq_of_infinite_eval_eq h (hilbertPoly p d)
    apply ((Set.Ioi_infinite (max N p.natDegree)).image cast_injective.injOn).mono
    rintro x ⟨n, hn, rfl⟩
    simp only [Set.mem_Ioi, sup_lt_iff, Set.mem_setOf_eq] at hn ⊢
    rw [← coeff_mul_invOneSubPow_eq_hilbertPoly_eval d hn.2, hhN n hn.1]
```

File: Mathlib/RingTheory/Polynomial/HilbertPoly.lean [hunk 3]
```diff
@@ -127,4 +131,52 @@ theorem coeff_mul_invOneSubPow_eq_hilbertPoly_eval
...
+      · have hne : (1 : F[X]) - X ≠ 0 := fun h0 => by simpa only [coeff_sub, coeff_one_zero,
+          coeff_X_zero, sub_zero, coeff_zero, one_ne_zero] using ext_iff.1 h0 0
+        simp_rw [natDegree_mul hp hne] at hlt
+        exact lt_of_add_right_lt hlt
+  refine eq_of_infinite_eval_eq _ _ ?_
+  · apply ((Set.Ioi_infinite (p * (1 - X)).natDegree).image cast_injective.injOn).mono
+    intro x hx
+    rcases hx with ⟨n, hn1, hn2⟩
+    rw [← hn2]
+    exact heq ⟨n, hn1⟩
```
Comment (jcommelin) [inline Mathlib/RingTheory/Polynomial/HilbertPoly.lean:174]:
```suggestion
  apply eq_of_infinite_eval_eq
  apply ((Set.Ioi_infinite (p * (1 - X)).natDegree).image cast_injective.injOn).mono
  rintro x ⟨n, hn, rfl⟩
  simp only [Set.mem_setOf_eq]
  by_cases hp : p = 0
  · simp only [hp, zero_mul, hilbertPoly_zero_nat]
  · simp only [Set.mem_Ioi] at hn
    have hpn : p.natDegree < n := by
      suffices (1 : F[X]) - X ≠ 0 from lt_of_add_right_lt (natDegree_mul hp this ▸ hn)
      rw [sub_ne_zero, ne_eq, ext_iff, not_forall]
      use 0
      simp
    simp only [hn, ← coeff_mul_invOneSubPow_eq_hilbertPoly_eval, coe_mul, coe_sub, coe_one, coe_X,
      mul_assoc, hpn, ← one_sub_pow_mul_invOneSubPow_val_add_eq_invOneSubPow_val F d 1, pow_one]
```

File: Mathlib/RingTheory/PowerSeries/WellKnown.lean [hunk 4]
```diff
@@ -159,6 +159,20 @@ theorem mk_add_choose_mul_one_sub_pow_eq_one :
...
   (invOneSubPow S (d + 1)).val_inv
 
+theorem invOneSubPow_add (e : ℕ) :
+    invOneSubPow S (d + e) = invOneSubPow S d * invOneSubPow S e := by
+  simp_rw [invOneSubPow_eq_inv_one_sub_pow, pow_add]
+
+theorem one_sub_pow_mul_invOneSubPow_val_add_eq_invOneSubPow_val (e : ℕ) :
+    (1 - X) ^ e * (invOneSubPow S (d + e)).val = (invOneSubPow S d).val := by
+  rw [invOneSubPow_add, Units.val_mul, mul_comm, mul_assoc, ← invOneSubPow_inv_eq_one_sub_pow]
+  simp
```
Comment (jcommelin) [inline Mathlib/RingTheory/PowerSeries/WellKnown.lean:169]:
```suggestion
  simp [invOneSubPow_add, Units.val_mul, mul_comm, mul_assoc, ← invOneSubPow_inv_eq_one_sub_pow]
```

File: Mathlib/RingTheory/PowerSeries/WellKnown.lean [hunk 5]
```diff
@@ -159,6 +159,20 @@ theorem mk_add_choose_mul_one_sub_pow_eq_one :
...
+
+theorem one_sub_pow_add_mul_invOneSubPow_val_eq_one_sub_pow (e : ℕ) :
+    (1 - X) ^ (d + e) * (invOneSubPow S e).val = (1 - X) ^ d := by
+  rw [pow_add, mul_assoc, ← invOneSubPow_inv_eq_one_sub_pow S e]
+  simp
```
Comment (jcommelin) [inline Mathlib/RingTheory/PowerSeries/WellKnown.lean:174]:
```suggestion
  simp [pow_add, mul_assoc, ← invOneSubPow_inv_eq_one_sub_pow S e]
```

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
